US07772253B2
N-[1-(3,5-Diethoxy-4-ethoxycarbonyl-benzyl)piperidin-4-yl]-5-methyl-nicotinamide
The title (15 mg, 32%) compound was prepared analogously to example 30 from 5-methyl-N-(piperidin-4-yl)-nicotinamide and 3,5-diethoxy-4-ethoxycarbonyl-benzaldehyde. MS: 470.5 (MH+)

reactant | 5-methyl-N-(piperidin-4-yl)-nicotinamide | CC=1C=NC=C(C(=O)NC2CCNCC2)C1 | C12H17N3O
reactant | 3,5-diethoxy-4-ethoxycarbonyl-benzaldehyde | C(C)OC=1C=C(C=O)C=C(C1C(=O)OCC)OCC | C14H18O5
product | N-[1-(3,5-Diethoxy-4-ethoxycarbonyl-benzyl)piperidin-4-yl]-5-methyl-nicotinamide | 15 mg, 32% | C(C)OC=1C=C(CN2CCC(CC2)NC(C2=CN=CC(=C2)C)=O)C=C(C1C(=O)OCC)OCC | C26H35N3O5
